US07291635B2
The title A compound, (S)-2-t-butoxycarbonylamino-3-(4-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl)-propionic acid (84.5 mg, 0.163 mmol) is dissolved in TFA (3.26 mL) containing t-butyidimethylsilane (0.081 mL, 0.498 mmol) at RT. The reaction is monitored by reverse phase HPLC (YMC CombiScreen Pro C18, 50×4.6 mm I.D., particle size S-5 micron, 12 nM) eluting at 3 mL/min with a gradient of 90:10 (0.1% TFA in water:MeCN) to 10:90 over 7.0 min. The starting material has a retention time of 3.85 min. After 20 min at RT, the reaction is heated at 80° C. for an additional 45 min. A new peak by HPLC has a retention time of 0.52 min, corresponding to the desired product. The reaction is cooled, filtered through florisil to remove a black precipitate and concentrated on a Savant Speedvac. The resulting residue is triturated with Et2O to give a white solid. This material is purified on a preparative reverse phase HPLC column (YMC CombiPrep Pro C18, 50×20 mm I.D., particle size S-5 micron, 12 nM) in two equal aliquots and eluted at 30 ml/min with a gradient of 100:0 (0.1% TFA in water:MeCN) to 70:30 over 5.0 min, then to 10:90 by 7 min. Fractions containing product are combined and concentrated on a Savant Speedvac, then triturated with 10% dimethylsulfoxide (DMSO) in MeCN to yield (S)-2-amino-3-[4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-propionic acid as a white solid: [M−1]−=298.0.

reactant | (S)-2-t-butoxycarbonylamino-3-(4-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl)-propionic acid | 0.163 mmol, 84.5 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)N1S(N(C(C1)=O)CC1=CC=C(C=C1)OC)(=O)=O | C24H29N3O8S
reactant | t-butyidimethylsilane | 0.498 mmol, 0.081 mL | C(C)(C)(C)[SiH](C)C | C6H16Si
solvent | TFA | 3.26 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (S)-2-amino-3-[4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-propionic acid | N[C@H](C(=O)O)CC1=CC=C(C=C1)N1S(NC(C1)=O)(=O)=O | C11H13N3O5S
